US09283229B2
A mixture of 2-(biphenyl-4-yl)acetic acid (1 g, 4.7 mmol), N,O-dimethylhydroxylamine hydrochloride (458 mg, 4.7 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (900 g, 4.7 mmol), hydroxybenzotriazole (635 mg, 4.7 mmol), and triethylamine (1.42 g, 14.1 mmol) in dichloromethane (30 mL) was stirred at room temperature overnight. When TLC indicated that 2-(biphenyl-4-yl)acetic acid was consumed, the reaction mixture was diluted with water (30 mL), and extracted with EtOAc (30 mL×3). The combined organic layer was dried over Na2SO4, concentrated in vacuo, and purified by column chromatography (PE:EtOAc=8:1) to afford 2-(biphenyl-4-yl)-N-methoxy-N-methylacetamide (1.0 g, yield 83%).

reactant | 2-(biphenyl-4-yl)acetic acid | 4.7 mmol, 1 g | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.7 mmol, 458 mg | Cl.CNOC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.7 mmol, 900 g | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole | 4.7 mmol, 635 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 14.1 mmol, 1.42 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-(biphenyl-4-yl)-N-methoxy-N-methylacetamide | 1.0 g, yield 83% | C1(=CC=C(C=C1)CC(=O)N(C)OC)C1=CC=CC=C1 | C16H17NO2
